US08486950B2
2,4,6-trichloro-N-(pyridin-4-yl)benzamide
A mixture of 2,4,6-trichlorobenzoic acid (224 mg, 10 mmol), 4-aminopyridine (141 mg, 1.5 mmol), HATU (1140 mg, 3 mmol), and DIPEA (646 mg, 5 mmol) in 5 mL anhydrous DMF was stirred under nitrogen at room temperature overnight. The reaction mixture was poured into ice-water (20 mL) and extracted EtOAc (2×50 mL). The combined organics were evaporated to dryness in vacuum and the residue was purified by silica gel column chromatography (EtOAc) to afford the desired product (72 mg, yield: 24%). 1HNMR: (CD3OD-d4, 400 MHz): δ 8.38 (d, J=6.0 Hz, 2H), 7.65 (d, J=6.0 Hz, 2H), 7.52 (s, 2H). LCMS (ESI) m/z: 301.1 [M+H+].

reactant | 2,4,6-trichlorobenzoic acid | 10 mmol, 224 mg | ClC1=C(C(=O)O)C(=CC(=C1)Cl)Cl | C7H3Cl3O2
reactant | 4-aminopyridine | 1.5 mmol, 141 mg | NC1=CC=NC=C1 | C5H6N2
reactant | HATU | 3 mmol, 1140 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 5 mmol, 646 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2,4,6-trichloro-N-(pyridin-4-yl)benzamide | 72 mg, yield: 24% | ClC1=C(C(=O)NC2=CC=NC=C2)C(=CC(=C1)Cl)Cl | C12H7Cl3N2O
